US07875639B2
4,5-Dimethyl-3-(tetrahydropyran-2-ylmethyl)-1,3-thiazol-2(3H)-ylideneamine hydrobromide
A mixture of 2-amino-4,5-dimethylthiazole and 2-(bromoethyl)tetrahydro-2H-pyran were processed as described in Example 2A to afford the title compound, 1H NMR (300 MHz, DMSO-d6) δ ppm 1.13-1.31 (m, 1 H), 1.36-1.52 (m, 3 H), 1.64-1.85 (m, 2 H), 2.18 (d, J=4 Hz, 6 H), 3.19-3.33 (m, 1 H), 3.49-3.63 (m, 1 H), 3.77-3.89 (m, 1 H), 3.94-4.02 (m, 2 H), 9.34 (s, 2 H); MS (DCI/NH3) m/z 227 (M+H)+.

reactant | 2-amino-4,5-dimethylthiazole | NC=1SC(=C(N1)C)C | C5H8N2S
reactant | 2-(bromoethyl)tetrahydro-2H-pyran | BrCCC1OCCCC1 | C7H13BrO
product | 4,5-Dimethyl-3-(tetrahydropyran-2-ylmethyl)-1,3-thiazol-2(3H)-ylideneamine hydrobromide | Br.CC=1N(C(SC1C)=N)CC1OCCCC1 | InChI=1S/C11H18N2OS.BrH/c1-8-9(2)15-11(12)13(8)7-10-5-3-4-6-14-10;/h10,12H,3-7H2,1-2H3;1H
